US08030487B2
Synthesis of 4-Bromo-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide (Intermediate 43)
4-bromo-benzenesulfonyl chloride (3.36 g, 13.1 mmol, 1 equiv) was dissolved in 50 mL DCM and treated with TEA (9.16 mL, 65.7 mmol, 5 equiv). To this, while stirring the solution, was added 2-pyrrolidin-1-yl-ethylamine (3 g, 26.3 mmol, 2 equiv). After 3 h, reaction was poured onto DCM/water mixture and washed once. The aqueous phase was back extracted once with fresh DCM. Organic phases were combined, washed once with brine and dried over sodium sulfate. Filtration followed by rotary evaporation provided desired product. White needles (3.92 g, 90%). Rf=0.35 (10% MeOH/DCM)

reactant | 4-bromo-benzenesulfonyl chloride | 13.1 mmol, 3.36 g, 1 equiv | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 2-pyrrolidin-1-yl-ethylamine | 26.3 mmol, 3 g, 2 equiv | N1(CCCC1)CCN | C6H14N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)NCCN1CCCC1 | C12H17BrN2O2S
